US08008514B2
1-5) Preparation of 2-methoxycarbonylmethyl-6,6-dimethyl-2-tetrahydropyran Carboxylic Acid (VII)
The solution obtained from the previous stage and containing 5 kg of 2-carboxymethyl-2-hydroxy-6-methyl-5-heptenoic acid 100% is charged into an enameled reactor. This residue is then cooled to 20-30° C. and 15 kg of formic acid 99% are added. The mixture is then heated to 70-75° C. and kept under stirring at that temperature for at least 4 hours. It is then cooled to 50-60° C. and the water is removed by vacuum distillation until an oily residue is obtained. The oily residue is cooled to 30-35° C. and 15 kg of ethyl acetate and 5 kg of demineralised water are added. The mixture obtained is stirred always at 30-35° C. and left under rest until the phases separate, eliminating the aqueous phase, while the solvent is removed from the organic phase by vacuum distillation until an oily residue is obtained. This residue is then cooled and 10.0 kg of methanol are added.

reactant | 2-carboxymethyl-2-hydroxy-6-methyl-5-heptenoic acid | 5 kg | C(=O)(O)CC(C(=O)O)(CCC=C(C)C)O | C10H16O5
reactant | formic acid | 15 kg | C(=O)O | CH2O2
reactant | ethyl acetate | 15 kg | C(C)(=O)OCC | C4H8O2
reactant | water | 5 kg | O | H2O
solvent | methanol | 10.0 kg | CO | CH4O
product | 2-methoxycarbonylmethyl-6,6-dimethyl-2-tetrahydropyran Carboxylic Acid | COC(=O)CC1(OC(CCC1)(C)C)C(=O)O | C11H18O5
